US05750549
2-Methoxy-3-carbomethoxy-5-nitropyridine
2-Hydroxy-3-carboxy-5-nitropyridine was converted to 2-chloro-3-chlorocarbonyl-5-nitropyridine in situ and converted to the title compound by reaction with anhydrous methanol according to the procedure of A. Monge et al J. Het. Chem. (29), 1545 (1992). In a 500 mL was added starting material (10.2 g, 54 mmol) in 200 mL of chlorobenzene. Phosphorous oxychloride (20 g, 131 mmol) was added and heated to reflux for 2 hours. The solvent was removed under reduced pressure and residual POCl3 was azeotroped off with 2×50 mL of toluene. Methanol (20 mL) was added to the mixture and the solution stirred at 25° C. for 1 hour, then refluxed overnight. Within 1 hour, all of the intermediate went into solution. There was considerable evolution of HCl. The methanol was stripped and the product neutralized with aqueous saturated sodium bicarbonate. The mixture was extracted with methylene chloride, the organic layer dried over MgSO4, filtered and the solvent removed under reduced pressure. Recovered 5.3 g of crude product. Two spots were observed by TLC (90/10 hexane/ethyl acetate); the higher Rf material (1.6 g) was 2-chloro-3-carbomethoxy-5-nitropyridine, the lower Rf product was the desired 2-methoxy-3-carbomethoxy-5-nitropyridine 850 mg (9% yield).

reactant | 2-Hydroxy-3-carboxy-5-nitropyridine | OC1=NC=C(C=C1C(=O)O)[N+](=O)[O-] | C6H4N2O5
reactant | 2-chloro-3-chlorocarbonyl-5-nitropyridine | ClC1=NC=C(C=C1C(=O)Cl)[N+](=O)[O-] | C6H2Cl2N2O3
reactant | methanol | CO | CH4O
product | 2-Methoxy-3-carbomethoxy-5-nitropyridine | COC1=NC=C(C=C1C(=O)OC)[N+](=O)[O-] | C8H8N2O5
